US06080754
Piperidine (0.104 g, 1.22 mmol) was dissolved in 50 ml of dry dimethylformamide under a nitrogen atmosphere and sodium hydride (60% in oil) 47 mg, 1.16 mmol) was added. The mixture was stirred for 1/2 hour. 5-Benzyloxy-2-(4-benzyloxyphenyl)-3-((4-chlorobutoxy)methyl)-1-ethylpyrrolo[2,1,5-cd]indolizine (0.337 g, 0.583 mmol) was added and the mixture was stirred at 55-65° for 7 days. Ethanol (10 ml) was added dropwise, and the reaction mxiture was diluted with 250 ml of water. The organic material was extracted into ethyl acetate (3×100 ml), and the combined organic layers were washed with brine and dried over sodium sulfate. The solvent was eaporated and the crude product was purified by column chromatography over silica gel 60, using 5% of methanol in dichloromethane as the eluent. Fractions containing the product were collected to afford 21 mg (5%) of 5-benzyloxy-2-(4-benzyloxyphenyl)-1-ethyl-3-((4-piperidinobutoxy)methyl)pyrrolo[2,1,5-cd ]indolizine as an oil. MS(SP): m/z 640 (M+). 1H-NMR (DMSO-d6, 300 MHz) δ: 1.28-1.58 (m, 13H); 2.21-2.57 (m, 6H); 3.08 (q, 2H); 3.37-3.48 (m, 2H+H2O); 4.72 (s, 2H); 5.20 (s, 2H); 5.60 (s, 2H); 7.22 (d, 2H); 7.32-7.69 (m, 14H); 7.98 (d, 1H).

reactant | Piperidine | 1.22 mmol, 0.104 g | N1CCCCC1 | C5H11N
reactant | sodium hydride | 1.16 mmol, 47 mg | [H-].[Na+]
reactant | 5-Benzyloxy-2-(4-benzyloxyphenyl)-3-((4-chlorobutoxy)methyl)-1-ethylpyrrolo[2,1,5-cd]indolizine | 0.583 mmol, 0.337 g | C(C1=CC=CC=C1)OC=1C=2N3C(C(=C(C3=CC1)CC)C1=CC=C(C=C1)OCC1=CC=CC=C1)=C(C2)COCCCCCl | C37H36ClNO3
reactant | Ethanol | 10 ml | C(C)O | C2H6O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 5-benzyloxy-2-(4-benzyloxyphenyl)-1-ethyl-3-((4-piperidinobutoxy)methyl)pyrrolo[2,1,5-cd ]indolizine | 21 mg, 5% | C(C1=CC=CC=C1)OC=1C=2N3C(C(=C(C3=CC1)CC)C1=CC=C(C=C1)OCC1=CC=CC=C1)=C(C2)COCCCCN2CCCCC2 | C42H46N2O3
